US08349870B2
Step E: Preparation of 2,5-dimethyl-α-oxobenzeneacetic acid
Two drops of 2-bromo-1,4-dimethylbenzene and an iodine crystal were add to magnesium turnings (1.7 g, 70.8 mmol). After heating to initiate the reaction, tetrahydrofuran (50 mL) was added, and then 2-bromo-1,4-dimethylbenzene (10 g, 54.1 mmol) was added dropwise the reaction mixture. The reaction was heated at reflux for an additional 1.5 h after the addition was complete, and then cooled to −65° C. and a solution of oxalyl chloride (5.2 mL, 7.6 g, 60 mmol) in THF (60 mL) was added dropwise. After 1 h the reaction mixture was warmed to 0° C., quenched with saturated aqueous ammonium chloride, poured into water and extracted with ethyl acetate (3×). The combined organic extracts were washed with saturated aqueous sodium chloride, dried (MgSO4) and concentrated under reduced pressure. The crude mixture was taken up in ethyl acetate and extracted two times with sodium hydroxide (1 N). The combined aqueous layers were adjusted to pH 3 with HCl (1 N) and extracted with ethyl acetate (3×). The combined organic extracts were dried (MgSO4) and concentrated under reduced pressure to provide the title compound as a tan solid (4.49 g).

reactant | iodine | II | I2
reactant | magnesium | 70.8 mmol, 1.7 g | [Mg] | Mg
reactant | 2-bromo-1,4-dimethylbenzene | 54.1 mmol, 10 g | BrC1=C(C=CC(=C1)C)C | C8H9Br
reactant | oxalyl chloride | 60 mmol, 5.2 mL, 7.6 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | THF | 60 mL | C1CCOC1 | C4H8O
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | 2-bromo-1,4-dimethylbenzene | Two drops | BrC1=C(C=CC(=C1)C)C | C8H9Br
product | 2,5-dimethyl-α-oxobenzeneacetic acid | 4.49 g | CC1=C(C=C(C=C1)C)C(C(=O)O)=O | C10H10O3
